US04663324
Preparation of 5-(4-chlorobenzylthio)-4-chloro-2-phenylpyridazin-3(2H)-one.
The reaction of 15.8 g (100 millimoles) of 4-chlorobenzyl mercaptan with 24.1 g (100 millimoles) of 4,5-dichloro-2-phenylpyridazin-3(2H)-one and 10.1 g (100 millimoles) of triethylamine is carried out as described in Method 2 and gives 30.5 g (84%) of a material which is found to be pure by thin-layer chromatography and has a melting point of 154°-155° C.

reactant | 4-chlorobenzyl mercaptan | 100 millimoles, 15.8 g | ClC1=CC=C(CS)C=C1 | C7H7ClS
reactant | 4,5-dichloro-2-phenylpyridazin-3(2H)-one | 100 millimoles, 24.1 g | ClC=1C(N(N=CC1Cl)C1=CC=CC=C1)=O | C10H6Cl2N2O
reactant | triethylamine | 100 millimoles, 10.1 g | C(C)N(CC)CC | C6H15N
product | 5-(4-chlorobenzylthio)-4-chloro-2-phenylpyridazin-3(2H)-one | 30.5 g, 84% | ClC1=CC=C(CSC2=C(C(N(N=C2)C2=CC=CC=C2)=O)Cl)C=C1 | C17H12Cl2N2OS
